US06541499B1
A. 4-[2-(2-Oxopyrrolidin-1-yl)ethoxy]benzoic Acid
2-Pyrrolidinone (0.859 mL, 11.3 mmol, 2.6 eq) was added to a suspension of sodium hydride (452 mg of 60% w/w, 11.3 mmol, 2.6 eq.) in THF (10 mL). After 1 h, the suspension of the sodium salt of 2-pyrrolidinone thus formed was added to a solution of methyl 4-(2-bromoethoxy)benzoate (1.17 g, 4.52 mmol) and a catalytic amount of tetrabutylammonium iodide in dry THF (10 mL). The reaction was heated at reflux for 18 h. The reaction mixture was concentrated under reduced pressure then the residue partitioned between ethyl acetate (150 mL) and 2 N sodium hydroxide (50 mL). The aqueous layer was made acidic to pH 3 with conc. HCl; then the solvent was removed under reduced pressure. The resulting solid was triturated with ethyl acetate to give the acid as a white solid (523 mg, 46%).

reactant | 2-Pyrrolidinone | 11.3 mmol, 0.859 mL, 2.6 eq | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 11.3 mmol, 452 mg, 2.6 eq. | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | methyl 4-(2-bromoethoxy)benzoate | 4.52 mmol, 1.17 g | BrCCOC1=CC=C(C(=O)OC)C=C1 | C10H11BrO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[2-(2-Oxopyrrolidin-1-yl)ethoxy]benzoic Acid | 523 mg, 46% | O=C1N(CCC1)CCOC1=CC=C(C(=O)O)C=C1 | C13H15NO4
